US04642313
23.4 g of (2-furylcarbonyl)methylamine hydrochloride, 29.3 g of sodium bicarbonate and 23.0 g of 4-fluorobenzoyl chloride are treated in the same manner as described in Preparation 1-(1). 24.0 g of N-(4-fluorobenzoyl)-(2-furylcarbonyl)methylamine are thereby obtained. Yield: 66.8%

reactant | (2-furylcarbonyl)methylamine hydrochloride | 23.4 g | Cl.O1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 29.3 g | C([O-])(O)=O.[Na+]
reactant | 4-fluorobenzoyl chloride | 23.0 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(4-fluorobenzoyl)-(2-furylcarbonyl)methylamine | 24.0 g, Yield: 66.8% | FC1=CC=C(C(=O)NCC(=O)C=2OC=CC2)C=C1 | C13H10FNO3
